US06743794B2
2-(Pyridin-3-yloxy)-hexanoic Acid Ethyl Ester
To a solution of ethyl-3-bromohexanoate, 5.0 g (22.4 mmol) in 200 mL of tetrahydrofuran was added 4.6 g (26.9 mmol) of 3-hydroxypyridine sodium salt. The mixture was refluxed for four hours and concentrated to dryness. The residue was partitioned between 20% isopropanol/chloroform and water. The organics were washed with saturated aqueous sodium bicarbonate, washed with brine, dried over sodium sulfate, filtered, and concentrated to dryness. The residue was purified by column chromatography using a methanol/chloroform gradient as eluent and concentrated to dryness to yield 1.82 g (34%) of the desired mixture of isomers as a brown liquid. MS (ion spray) 238.2 (M+1).

reactant | ethyl-3-bromohexanoate | C(C)OC(CC(CCC)Br)=O | C8H15BrO2
reactant | 3-hydroxypyridine sodium salt | 26.9 mmol, 4.6 g | [Na].OC=1C=NC=CC1
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 2-(Pyridin-3-yloxy)-hexanoic Acid Ethyl Ester | 1.82 g, 34% | C(C)OC(C(CCCC)OC=1C=NC=CC1)=O | C13H19NO3
